US09145395B2
Following the general procedure, 2-amino-4-hept-6-ynyl-imidazole-1-carboxylic acid tert-butyl ester (0.075 g, 0.270 mmol) was reacted with 2-azido-N-phenyl-acetamide (0.072 g, 0.410 mmol) and afforded 0.050 g (51% yield) of 2-{4-[5-(2-amino-1H-imidazol-4-yl)-pentyl]-[1,2,3]triazol-1-yl}-N-phenyl-acetamide hydrchloride. 1H NMR (400 MHz, CD3OD) 8.53 (s, 1H), 7.59 (d, J=7.6, 2H), 7.31 (t, J=7.2, 2H), 7.11 (t, J=7.2, 1H), 6.50 (s, 1H), 5.62 (s, 2H), 3.96 (s, 1H), 2.89 (bs, 2H), 2.50 (t, J=6.8, 2H), 1.79 (bs, 2H), 1.66 (bs, 2H), 1.45 (bs, 2H); 13C NMR (100 MHz, CD3OD) δ 164.3, 148.6, 139.2, 130.1, 128.9, 125.9, 121.2, 109.8, 55.7, 28.9, 25.3, 24.7; HRMS (ESI), calculated for C18H23N7O (MH+) 353.1964. Found 353.1968.

reactant | 2-amino-4-hept-6-ynyl-imidazole-1-carboxylic acid tert-butyl ester | 0.270 mmol, 0.075 g | C(C)(C)(C)OC(=O)N1C(=NC(=C1)CCCCCC#C)N | C15H23N3O2
reactant | 2-azido-N-phenyl-acetamide | 0.410 mmol, 0.072 g | N(=[N+]=[N-])CC(=O)NC1=CC=CC=C1 | C8H8N4O
product | 2-{4-[5-(2-amino-1H-imidazol-4-yl)-pentyl]-[1,2,3]triazol-1-yl}-N-phenyl-acetamide | 0.050 g, 51% yield | NC=1NC=C(N1)CCCCCC=1N=NN(C1)CC(=O)NC1=CC=CC=C1 | C18H23N7O
